US07553868B2
2-[(Aminocarbonyl)amino]-5-[2-{2-[(4-fluorobenzyl)amino]ethoxy}phenyl]thiophene-3-carboxamide
The title compound was prepared by treating tert-butyl N-[2-(2-{3-(aminocarbonyl)-2-[(aminocarbonyl)amino]thien-5-yl}phenoxy)ethyl]-N-[4-fluorobenzyl]carbamate with 10% aqueous trifluoroacetic acid for 2 h at ambient temperature followed by purification using cation exchange chromatography. MS (ES) 429 (M+H)+. 1H NMR (DMSO-D6) 2.9 (m, 2H), 3.8 (s, 2H), 4.15 (m, 2H), 6.85 (br, 2H), 6.95 (m, 1H), 7.05 (m, 3H), 7.2 (m, 2H), 7.35 (m, 2H), 7.6 (m, 2H), 7.75 (s, 1H), 10.92 (s, 1H). b) tert-Butyl N-[2-(2-{3-(aminocarbonyl)-2-[(aminocarbonyl)amino]thien-5-yl)phenoxy)ethyl]-N-[4-fluorobenzyl]carbamate The title compound was prepared from tert-butyl N-[2-(2-bromophenoxy)ethyl]-N-[4-fluorobenzyl]carbamate in a similar manner to Example 1 (a) except that the concentrated reaction mixture was partitioned between DCM and saturated sodium carbonate. The solvent layer was washed (brine), dried and evaporated to leave an oil. The pure product was obtained by silica chromatography eluting with DCM/methanol mixtures. MS (ES) 529 (M+H)+. 1H NMR (DMSO-D6) 1.35 (s, 9H), 3.6 (m, 2H), 4.1 (m, 2H), 4.4 (m, 2H), 6.8 (m, 2H), 7.1 (m, 2H), 7.25 (m, 3H), 7.6 (m, 6H), 10.98 (s, 1H). c) tert-Butyl N-[2-(2-bromophenoxy)ethyl]-N-[4-fluorobenzyl]carbamate A solution of di-tert-butyl dicarbonate (1.86 g) in DCM (5 ml) was added over 5 min to a stirred solution of N-[2-(2-bromophenoxy)ethyl]-N-[4-fluorobenzyl]amine (2.5 g) in DCM (20 ml) and the resulting mixture was stirred at room temperature for 4 h. The reaction was diluted with DCM and then washed with water. After drying, the solvent was evaporated to yield an oil (2.9 g). MS (ES) 424 (M+H)+. d) N-[2-(2-Bromophenoxy)ethyl]-N-[4-fluorobenzyl]amine The title compound was prepared from 1-bromo-2-(2-chloroethoxy)benzene and 4-fluorobenzylamine in a similar manner to Example 1 (b). MS (ES) 324 (M+H)+.

reactant | tert-butyl N-[2-(2-{3-(aminocarbonyl)-2-[(aminocarbonyl)amino]thien-5-yl}phenoxy)ethyl]-N-[4-fluorobenzyl]carbamate | NC(=O)C1=C(SC(=C1)C1=C(OCCN(C(OC(C)(C)C)=O)CC2=CC=C(C=C2)F)C=CC=C1)NC(=O)N | C26H29FN4O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 2-[(Aminocarbonyl)amino]-5-[2-{2-[(4-fluorobenzyl)amino]ethoxy}phenyl]thiophene-3-carboxamide | NC(=O)NC=1SC(=CC1C(=O)N)C1=C(C=CC=C1)OCCNCC1=CC=C(C=C1)F | C21H21FN4O3S
